* Z:\home\sdanthinne\Documents\307\gateTransistorModels\Draft8.asc
XX1 N001 Vout N001 0 N001 s_3_and
V1 N001 0 5

* block symbol definitions
.subckt s_3_and Vdd Vout A B C
XX1 Vdd A B P001 s_and
XX2 Vdd P001 C Vout s_and
.ends s_3_and

.subckt s_and Vdd A B Vout
M1 N001 B N002 N002 CMOSN_0.5
M2 N002 A 0 0 CMOSN_0.5
M3 N001 B Vdd Vdd CMOSP_0.5
M4 N001 A Vdd Vdd CMOSP_0.5
XX1 N001 Vout Vdd s_inv
.ends s_and

.subckt s_inv vin vout vdd
M1 vout vin vdd vdd CMOSP_0.5
M2 vout vin 0 0 CMOSN_0.5
.ends s_inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20u
.lib Z:\home\sdanthinne\Documents\307\gateTransistorModels\DetailedModel.mod
.backanno
.end
