* Z:\home\sdanthinne\Documents\307\computer\gateTransistorModels\inverterComparison.asc
M1 VoutRTL N002 0 0 CMOSN_0.5
M2 VoutCMOS N002 N001 N001 CMOSP_0.5
R1 N001 VoutRTL 7949.49
V1 N002 0
Vdd N001 0 5
M3 VoutCMOS N002 0 0 CMOSN_0.5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.dc V1 0 5
.model nmos_cust CMOSN_0.5
.model pmos_cust CMOSP_0.5
.meas VilCMOS FIND V1 WHEN d(v(voutcmos))=-1 CROSS=1
.meas Vmcmos FIND V1 WHEN V1=v(voutcmos)
.meas Vmrtl FIND V1 WHEN V1=v(voutrtl)
.meas VohCMOS FIND v(voutcmos) WHEN d(v(voutcmos))=-1 CROSS=1
.meas VihCMOS FIND V1 WHEN d(v(voutcmos))=-1 CROSS=2
.meas VolCMOS FIND v(voutcmos) WHEN d(v(voutcmos))=-1 CROSS=2
.meas VilRTL FIND V1 WHEN d(v(voutrtl))=-1 CROSS=1
.meas VohRTL FIND v(voutrtl) WHEN d(v(voutrtl))=-1 CROSS=1
.meas VihRTL FIND V1 WHEN d(v(voutRTL))=-1 CROSS=2
.meas VolRTL FIND v(voutrtl) WHEN d(v(voutrtl))=-1 CROSS=2
.lib DetailedModel.mod
.backanno
.end
