* Z:\home\sdanthinne\Documents\307\gateTransistorModels\mux_test.asc
XX1 N001 Vsel Va Vb sout s_2x1_mux
V1 N001 0 5
Vb Vb 0 PULSE(0 5 0 .1p .1p 1u 2u 8)
Vsel Vsel 0 PULSE(0 5 0 .1p .1p 2u 4u 4)
Va Va 0 PULSE(0 5 0 .1p .1p 4u 8u 2)

* block symbol definitions
.subckt s_2x1_mux Vdd sel A B s
XX1 Vdd sel B N001 s_and
XX2 Vdd A N003 N002 s_and
XX3 Vdd s N001 N002 s_or
XX4 sel N003 Vdd s_inv
.ends s_2x1_mux

.subckt s_and Vdd A B Vout
M1 N001 B N002 N002 CMOSN_0.5
M2 N002 A 0 0 CMOSN_0.5
M3 N001 B Vdd Vdd CMOSP_0.5
M4 N001 A Vdd Vdd CMOSP_0.5
XX1 N001 Vout Vdd s_inv
.ends s_and

.subckt s_or Vdd Vout A B
M1 P001 A Vdd Vdd CMOSP_0.5
M2 N001 B P001 P001 CMOSP_0.5
M3 N001 A 0 0 CMOSN_0.5
M4 N001 B 0 0 CMOSN_0.5
XX1 N001 Vout Vdd s_inv
.lib DetailedModel.mod
.ends s_or

.subckt s_inv vin vout vdd
M1 vout vin vdd vdd PMOS
M2 vout vin 0 0 NMOS
.ends s_inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 16u
.lib Z:\home\sdanthinne\Documents\307\gateTransistorModels\DetailedModel.mod
.backanno
.end
